Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've had a rough week"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old senior at ___ with a past history of depression 
and anxiety, with no prior inpatient hospitalizations or suicide 
attempts and no other medical issues who was brought in by 
public safety from Mass art after self presenting to the 
counseling center endorsing worsening depression with suicidal 
ideation with plan to jump in front of the ___, in the 
context of multiple psychosocial stressors. Psychiatry was 
consulted for safety assessment.  
.
Patient endorses chronic dysthymic mood for several months, 
however notes worsening decreased energy, depressed mood, 
increasing isolation, feelings of guilt and shame, decreased 
appetite poor sleep (not falling asleep until 3 am due to 
ruminating thoughts about the future and death) and evolving 
suicidal ideation. Patient notes that these symptoms have 
acutely been worsening since His grandfather passed away 
suddenly in ___, and notes in particular noting worsening 
since ___. He notes that these symptoms have gotten in 
the way of concentration and completing his school assignments. 
He finds himself ruminating and contemplating the meaning of 
life and "if its all worth it". He notes that today he had a 
panic attack and felt acutely frightened and scared of the 
intrusiveness of his suicidal thinking so he self presented to 
the counseling ___ help. He notes that he has been 
researching ways to kill himself and figuring out what would be 
the least painful and the "quickest". He notes that his worry 
about what his death would do to his friends and family is what 
has prevented him from acting on these thoughts.
.
Mr. ___ notes that he has felt particularly stressed about 
his thesis film class and has felt unable to complete the work. 
He notes feeling worthless and hopeless about "his future" in 
the context of his failure to complete these assignments. He 
notes occasionally punching a wall out of frustration but 
stopping when it begins to hurt his hand. Reports last doing 
these a few days ago.
.
Patient notes ongoing anxiety with rumination as above and 
worries about his future. He notes occasional panic attacks 
where he feels diaphoretic, like his heart is racing and shaky 
and feels like he cant catch his breath. These last for ___ 
minutes at a time. His last episode was today, prior to this he 
cannot recall his last panic attack but notes feeling these 
occurring since the age of ___.
.
Mr. ___ notes a few discrete moments where he felt he did 
not need significant sleep for ___ days at a time. During these 
times he noted that his mood felt somewhat elevated and he was 
"getting a lot of drawing done". He also notes feeling more bold 
and charismatic during these times. He notes occasionally using 
marijuana (at his baseline level) during these times.
.
Patient denies any auditory or visual hallucinations or ideas of 
reference in the past. He notes "paranoia" that people are 
talking about him when he is in large groups. Denies ever 
feeling like others were out to hurt him.
.
 ROS: 
 -Psychiatric: As per HPI
 -General: Denies cough , congestion shortness of breath or 
chest pain at this time. Denies any physical complaints. No 
changes in bowel movements or GU symptoms. 
.
COLLATERAL: ___ ___ Mr. ___ reports 
his son has been doing "really great" recently.  Reports the 
patient has bee getting high anxiety about his future and 
feeling he will not be able to do things and life in general. 
Overall, when he is around his family, including ___ he was 
on the surface his normal self and seemed happy.  Mr. ___ 
notes his son and him do speak more in-depth and he has shared 
that he has had thoughts of jumping in front of the train 
before, which he has shared on multiple occasions. The patient 
has noted concern that he has these thoughts more than is 
normal. Mr. ___ feels his son's distress is related to not 
knowing where he is going in the future.  He is in agreement 
with the necessity of inpatient hospitalization at this time. 
Requests a call with disposition information.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
   - Prior diagnoses: Depression and Anxiety per patient. No 
formally diagnosed.
   - Hospitalizations: none
   - Current treaters and treatment: none
   - Medication and ECT trials: none
   - Suicide attempts: denies
   - Self-injurious behavior: Occasionally punches the wall.
   - Harm to others: denies
   - Access to weapons: Had access to a pocket knife which he 
turned over on arrival to the ED. No firearms
.
PAST MEDICAL HISTORY:
Denies any major medical issue Denies history of seizures or 
head injuries.

Primary Care Physician: ___
 
Social History:
SUBSTANCE ABUSE HISTORY:
   - Alcohol: denies
   - Tobacco: Reports smoking upt o 5 cigarettes, or ___ ___ 
pod daily.
   - Marijuana: smokes 1 joint daily, reports helpful with sleep
   - Other illicit substances and IVDU: denies
.
 FORENSIC HISTORY:
   - Arrests: denies
   - Convictions and jail terms: denies
   - Current status (pending charges, probation, parole): denies

  
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
No known family history of psychiatric disorders per the patient

 
Physical Exam:
VS: ___ 1155 Temp: 98.1 PO BP: 134/69 HR: 66 RR: 17 O2 sat: 
94% 
.
General: ___ year old male. Well-nourished, well-developed. 
Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx 
clear.
 Neck: Supple.
 Back: No significant deformity.
 Lungs: CTA ___. No crackles, wheezes, or rhonchi.
 CV: RRR, no murmurs/rubs/gallops. 
 Abdomen: +BS, soft, nontender, nondistended. No palpable masses 
or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions. 
.
Neurological:
 pupils symmetry and responsiveness to light and accommodation: 
PERRLA
 visual fields: full to confrontation
 EOM:  full
 facial sensation to light touch in all 3 divisions: equal
 facial symmetry on eye closure and smile:  symmetric
 hearing bilaterally to rubbing fingers: normal
 phonation: normal
 head turning and shoulder shrug:  intact
 tongue: midline
 Motor: muscle bulk and tone normal, strength is full 
bilaterally
 Reflexes: DTRs 2+ and symmetric at knees and ankles
 Sensation: intact to light touch in all 4 extremities
 Coordination: intact
 Gait: normal posture, normal gait
.
Cognition: 
 Wakefulness/alertness: awake and alert
 Attention: intact to interview
 Orientation: oriented to person, time, place, situation
 Executive function (go-no go, Luria, trails, FAS): not tested
 Memory: intact to recent and past history
 Fund of knowledge: consistent with education
 Speech: normal rate, volume, and tone
 Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
Mental Status:
 Appearance: No apparent distress, appears stated age, well 
groomed, appropriately dressed
 Behavior: Calm, cooperative, engaged, appropriate eye contact, 
no psychomotor agitation or retardation
 Mood and Affect: "confused" / euthymic, full range, appropriate 
to situation, congruent with mood
 Thought Process: linear, coherent, goal-oriented. No LOA.
 Thought Content: denies SI/HI/AH/VH, no evidence of delusions 
or paranoia
 Judgment and Insight: Fair/Fair
 
Pertinent Results:
___ 04:19PM   PLT COUNT-239
___ 04:19PM   NEUTS-50.3 ___ MONOS-8.7 EOS-4.8 
BASOS-0.8 IM ___ AbsNeut-2.49 AbsLymp-1.74 AbsMono-0.43 
AbsEos-0.24 AbsBaso-0.04
___ 04:19PM   WBC-5.0 RBC-4.70 HGB-13.7 HCT-40.8 MCV-87 
MCH-29.1 MCHC-33.6 RDW-11.9 RDWSD-38.1
___ 04:19PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:19PM   estGFR-Using this
___ 05:56PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 05:56PM URINE  HOURS-RANDOM
___ 05:56PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:56PM URINE  COLOR-Straw APPEAR-Clear SP ___. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.
.
2. PSYCHIATRIC:
#)  On admission, patient reported depressed mood worsening over 
the past few months in the setting of personal losses and 
academic pressures, as well as intermittent SI which he states 
has remained stably present. He denied hopelessness, wanting to 
die, feelings of worthlessness, changes in sleep or appetite, or 
loss of interest. Patient described plans for the future and 
desire to pursue ongoing outpatient mental health treatment. 
Collateral from patient's father was reassuring for the same and 
father denied acute safety concerns. Mental status exam was 
notable for an appropriate, euthymic, linear patient with normal 
speech and multiple unspecified plans for suicide but no intent 
to act upon them. Cognitive exam unremarkable. 
.
Patient's affect was inconsistent with his thought content on 
this interview and he denies other symptoms of depression 
besides SI and low mood. It may be that patient's suicidality is 
representative of underlying character traits which predispose 
him to expressing distress in atypical ways. That being said, 
the patient's presentation at ___ 
yesterday was acutely concerning for hopelessness, low mood, 
suicidal ideation, and intent to commit suicide. A major 
depressive episode remained highest on the differential.
.
During admission, patient engaged appropriately with treatment 
team and consistently reiterated his desire to engage in 
outpatient treatment. We discussed trial of SSRI; patient 
declined at this time. Patient was amenable to referral to 
partial hospital program (located in ___ near patient's 
parent's home). Patient indicated that he would like to spend 
more time with them over the next few weeks. However, he also 
expressed his preference to take ___ courses at ___. 
.
Prior to discharge, patient was provided with psychoeducation 
materials on suicidal ideation and behavior with crisis line 
information. Also engaged patient in meaningful conversation 
about safety planning (identify warning signs, identify coping, 
or self-management strategies, identify social supports).
Throughout admission, and on day of discharge, patient exhibited 
mood congruent euthymic affect, linear thought process, and 
thought content absent for suicidal ideation or thoughts/urges 
to engage in self-harm. Voiced future oriented plans, including 
his desire to spend time with his family.
.
3. SUBSTANCE USE DISORDERS:
#) Nicotine Use Disorder - Counseled patient about negative 
effects of nicotine use. Offered replacement gum Q2Hrs PRN.
.
#) Cannabis Use Disorder - Counseled patient about negative 
effects of cannabis use. 
.
4. MEDICAL
#) No acute medical concerns.
.
5. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient attended these groups that focused on teaching patients 
various coping skills.  He was noted by staff to be polite and 
appropriate in the milieu.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Treatment team spoke with father said that pt has discussed his 
suicidal thoughts with him but he has not noticed an acute 
worsening. In fact, he feels that things have gotten better 
because his son has become increasingly open with him and now 
feels comfortable sharing his feelings and seeking help. He 
reports that when they talk he is sometimes initially concerned 
but by the end of the conversation feels hopeful and that his 
son is safe. He is not worried about him following through. He 
also reports that the only mental illness that he is aware of in 
the family is that a two of his brothers-in-law claim to be 
anxious but do not appear so and are living productively in the 
community."

Spoke over the phone with Dr. ___ from the ___ 
___:
Dr. ___ that she has seen the patient twice (once for 
initial visit and again on ___. She states that the patient 
had reported suicidal thinking of a non-imminent chronic nature 
at their first appointment. However, yesterday he presented in 
significant distress and reported feeling hopeless about the
future, regretful of his career path, and reporting SI with plan 
to jump in front of a train or to jump out of a window (he lives 
in a high dormitory with accessible windows). Dr. ___ 
that the patient expressed he had been feeling this poorly for 
some time but had not disclosed the severity of it until today. 
She states that she is concerned about the patient's safety due 
to his lack of outpatient providers and imminent graduation from 
___. She feels that a PHP would be appropriate for him at 
discharge if he was amenable to this and stated that she would 
be available to liaise with school regarding any academic 
factors which may arise in the setting of arranging outpatient 
treatment.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself due to worsening depressive 
symptoms and suicidal ideation. His static factors include 
history of substance abuse, Caucasian race, age, and marital 
status. His modifiable risk factors included suicidal ideation 
with multiple plans but no acute intent, no established 
long-term outpatient treatment, and recent personal loss; these 
were addressed by referring patient to outpatient treatment 
(including individual therapy and partial hospital program to 
begin next week). Protective factors identified included his 
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, life satisfaction, reality testing 
ability, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, no history of abuse, and 
strong social supports.  Overall, at time of discharge, patient 
was no longer at acutely elevated risk of harm to self due to 
decompensated psychiatric illness such that he required ongoing 
inpatient admission.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Nicotine Polacrilex 2 mg PO Q2H:PRN nicotine withdrawal  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Unspecified
Cannabis Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___